US04186129
5-(3,4-Dimethoxyphenyl)-5-propyl-2-oxazolidinone
17.35 mmol of 5-amino-4-(3,4-dimethoxyphenyl)-4-pentanol is dissolved in 10 ml. of absolute dimethylformamide and reacted with 18.3 mmol of 98% strength carbonyl diimidazole in 100 ml. of absolute tetrahydrofuran for 4 days at room temperature under the exclusion of moisture. After the solvent has been distilled off, the residue is taken up in ethyl acetate, extracted twice with 1 N hydrochloric acid, and washed neutral with saturated sodium chloride solution. The thus-obtained oil is purified by way of a silica gel column (350 g.) in a chloroform/methanol system 30:1. The product is 5-(3,4-dimethoxyphenyl)-5-propyl-2-oxazolidinone in an 81.7% yield in the form of an oil.

reactant | 5-amino-4-(3,4-dimethoxyphenyl)-4-pentanol | 17.35 mmol | NCC(CCC)(O)C1=CC(=C(C=C1)OC)OC | C13H21NO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(3,4-Dimethoxyphenyl)-5-propyl-2-oxazolidinone | COC=1C=C(C=CC1OC)C1(CNC(O1)=O)CCC | C14H19NO4
